US06448242B1
Preparation of 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride
Concentrated hydrochloric acid (0.060 ml; 0.72 mmol) was added to a solution of 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane (189 mg; 0.24 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice to obtain the title compound as a pale yellow amorphous powder.

reactant | hydrochloric acid | 0.72 mmol, 0.060 ml | Cl | ClH
reactant | 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane | 0.24 mmol, 189 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)N(C)C)C=C1 | C47H59N3O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-2-(dimethylamino)propane hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)CC(CC2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)N(C)C)C=C1 | InChI=1S/C47H59N3O8.ClH/c1-48(2)39(25-31-17-21-49(22-18-31)46(51)35-13-9-33(10-14-35)37-27-40(53-3)44(57-7)41(28-37)54-4)26-32-19-23-50(24-20-32)47(52)36-15-11-34(12-16-36)38-29-42(55-5)45(58-8)43(30-38)56-6;/h9-16,27-32,39H,17-26H2,1-8H3;1H
